Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1]=[C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-8.14370222908
[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]=[O:3],1.51130723884
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][O:2][C:3]#[C:4]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-5.23861393376
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16],4.36639038691
[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12]1>>[H:1][O:2][C:3][O:12][C:9]([C:6]([C:4][H:5])([H:7])[H:8])([H:10])[H:11],5.40186234146
[H:1][C:2]1=[C:3][O:4][C:5]=[C:6]([H:7])[C:8]1([H:9])[H:10]>>[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])=[C:8]([H:9])[H:10],0.4192413418
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[C:12]([H:13])([H:14])[H:15],1.68231836533
[H:1].[O:2]=[C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.7250468769999998
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:8]([H:9])([H:10])[O:11][H:12].[H:1][O:2][C:3]([H:4])[C:5]#[C:6][H:7],3.23704580055
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])[H:5],3.32246929243
[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12].[O:1]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-7.99100440829
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.13572459491
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][H:8]>>[C:3][C:4]([H:5])([H:6])[O:7][H:8].[H:1][O:2],6.43771326698
[H:13].[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-1.92013492158
[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:12][C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-4.2084739223800005
[H:1][O:2][C:3][O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.61176696566
[O:1]=[C:2]=[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]1[C@:3]2([H:4])[C:5][C@:6]12[C:7]([H:8])([H:9])[H:10],2.45787819218
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:15].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13][H:14],4.9523196909500005
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7].[O:8]=[C:9]([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],0.06302331629010001
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8][C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-4.85215296389
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14]>>[C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9],4.85783060047
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:8][C:9]([H:10])[H:11]>>[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:8][C:9][H:10],4.33991710105
[H:1][C:2]([H:3])[O:4][C:5]1[C@@:6]2([H:7])[C:8][C@@:9]12[H:10]>>[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]#[C:9][H:10],-3.26995221861
[H:1][O:2][C:3]#[C:4][C:6]([H:7])[H:8].[H:5]>>[H:1][O:2][C:3][C:4]([H:5])=[C:6]([H:7])[H:8],-3.0780892261900004
[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.28271401044
[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])[O:4][C:5][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[O:4]/[C:5](=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-6.49181588854
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17].[H:6],1.7490751222
